US04289776
80.3 g of 3-methyl-7-n-decyl-xanthine, 140 g of water, 90 g of methanol, 10 g of sodium hydroxide and 44.6 g of 1-bromohexanone-(5) are boiled under reflux for 4 hours. After acidification with 2 ml of concentrated sulphuric acid, the reaction mixture is filtered hot to remove the unreacted 3-methyl-7-n-decyl-xanthine and the filtrate is worked up as in Example 1. 66.1 g of a crude crystalline product are obtained and are recrystallised from 500 ml of diisopropyl ether. The 1-(5-oxohexyl)-3-methyl-7-(n-decyl)-xanthine which is obtained in 85% yield melts at 64°-66° C.

reactant | 3-methyl-7-n-decyl-xanthine | 80.3 g | CN1C(NC(C=2N(C=NC12)CCCCCCCCCC)=O)=O | C16H26N4O2
reactant | water | 140 g | O | H2O
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | methanol | 90 g | CO | CH4O
product | 1-(5-oxohexyl)-3-methyl-7-(n-decyl)-xanthine | 85% yield | O=C(CCCCN1C(=O)N(C=2N=CN(C2C1=O)CCCCCCCCCC)C)C | C22H36N4O3
